US06235778B1
a) 1-(Morpholinylsulfonyl)-2-nitrobenzene
To a solution of morpholine (1.91 g, 22 mmol and triethylamine (2.2 g, 22 mmol) in dichloromethane (100 mL) at 0° C. was added 2-nitrobenzenesulfonyl chloride (4.42 g, 20 mmol). The mixture was stirred for 4 h and then additional dichloromethane (100 mL) was added. The dichloromethane solution was washed with saturated NaHCO3 (2×50 mL), 10% HCl (2×50 mL) and brine (50 mL) and dried over Na2SO4. Evaporating the solvent in vacuo gave the title compound as a yellow solid (5.3 g, 97%). 1H-NMR (300 MHz, CDCl3) δ7.97 (d, J=7.3 Hz, 1H), 7.62-7.77 (m, 3H), 3.75 (t, J=4.7 Hz, 4H), 3.30 (t, J=4.8 Hz, 4H).

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | triethylamine | 22 mmol, 2.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-nitrobenzenesulfonyl chloride | 20 mmol, 4.42 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(Morpholinylsulfonyl)-2-nitrobenzene | 5.3 g, 97% | N1(CCOCC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C10H12N2O5S
